



L11 7 1 195nH
L33 3 2 195nH
L44 6 5 195nH
L22 0 9 195nH


K12 L11 L22 0.0995
K13 L11 L33 0.154
K14 L11 L44 0.154
K23 L33 L22 0.154
K24 L44 L22 0.154
K34 L33 L44 0.841



C13 1 2 408fF
C34 2 5 10.2pF
C42 5 9 389fF
C1 1 2 0.1nF
C2 1 5 0.1nF
C3 5 9 0.1nF
C4 2 9 0.1nF

R1 8 6 10
R2 4 3 10

VDD 7 0 DC 1V
Vramp1 7 4 PWL(0 0 1ns 1v 20ns 1v 20us 1v)
Vramp2 8 0 PWL(0 0 1ns 1v 20ns 1v 20us 1v)
 


.control
tran 0.1ns 2us
run 
plot v(1)
plot v(9)

.endc 
 
