*Assignment_2_Q_3_c
*Author : SHAHBAZ SARIK
*including technology file

.include tsmc_spice_180nm.txt

*Modelling the wire

*Partial self inductance of wires (W1, W2, W3, W4)

lw1 P R 1.9335e-7
lw2 W U 1.9335e-7
lw3 X V 1.9335e-7
lw4 Q S 1.9335e-7

*Partial mutual inductances among the wire

*Between (w1,w3), (w2,w4), (w1,w4), (w2,w3)

k13 lw1 lw3 0.15
k24 lw2 lw4 0.15
k14 lw1 lw4 0.15
k23 lw2 lw3 0.15

*Between (w1,w2)
 
k12 lw1 lw2 0.1

*Between (w3,w4)

k34 lw3 lw4 0.85

*Inter wire capacitances (present between two wires), (w1,w3), (w3,w4), (w4,w2).
*These capacitances broken into two equal parts and placed at the ends of the wire.
*since dimension if all wires are same and 1,3 and 4,2 have same distance between them
*so they will have similar capacitance

cw13_part1 P U 0.2049pf
cw13_part2 R W 0.2049pf

cw42_part1 V Q 0.2049pf
cw42_part2 X S 0.2049pf

*capacitance between 3,4
cw34_part1 U V 4.801pf
cw34_part2 W X 4.801pf

*Capacitance between wire and ground 
*These capacitances broken into two equal parts and placed at the ends of the wire.

cw1_part1 P gnd 0.969pf
cw1_part2 R gnd 0.969pf

cw2_part1 U gnd 1.0314pf
cw2_part2 W gnd 1.0314pf

cw3_part1 V gnd 0.573pf
cw3_part2 X gnd 0.573pf

cw4_part1 Q gnd 0.581pf
cw4_part2 S gnd 0.581pf

*defining subsystem A

v_rt1 P A pwl(0 0 1ns 1 2s 1)
v_rt2 B Q pwl(0 0 1ns 1 2s 1)

rA1 A U 10
rA2 B V 10

*defining subsystem B
cB1 R W 0.1nF
cB2 W S 0.1nF
cB3 R X 0.1nF
cB4 X S 0.1nF


*completing connections
r1 Q gnd 0
Vsup P gnd dc 1


.tran 1n 2500ns uic


.control
run
plot v(R)
plot v(S)

.endc
.end

 
